US09056859B2
5-(1,3-Dioxolan-2-ylmethyl)-2-benzofuran-1(3H)-one (61 g, 280 mmol) was combined with water (2.2 L) in a 5 L round bottomed flask equipped with a Claisen adapter, thermocouple, stir bar and nitrogen bubbler. Aqueous HCl solution (2M, 1.14 L, 2.29 mol) was added and the resulting mixture was heated at 40° C. for 8 h. Then the mixture was stirred overnight at room temperature. The mixture was extracted three times with 2 L of ethyl acetate. The combined organic layers were concentrated to give (1-oxo-1,3-dihydro-2-benzofuran-5-yl)acetaldehyde. MS: in/z 177 (M+1)+.

reactant | 5-(1,3-Dioxolan-2-ylmethyl)-2-benzofuran-1(3H)-one | 280 mmol, 61 g | O1C(OCC1)CC1=CC2=C(C(OC2)=O)C=C1 | C12H12O4
reactant | HCl | 2.29 mol, 2M, 1.14 L | Cl | ClH
solvent | water | 2.2 L | O | H2O
product | (1-oxo-1,3-dihydro-2-benzofuran-5-yl)acetaldehyde | O=C1OCC2=C1C=CC(=C2)CC=O | C10H8O3
